Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
diagnostic/therapeutic paracentesis ___
therapeutic paracentesis ___
upper endoscopy ___
attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:20AM BLOOD WBC-13.3* RBC-2.39* Hgb-8.5* Hct-24.5* 
MCV-103* MCH-35.6* MCHC-34.7 RDW-16.1* RDWSD-60.1* Plt ___
___ 01:20AM BLOOD Neuts-77.4* Lymphs-11.6* Monos-9.1 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-10.27* AbsLymp-1.54 
AbsMono-1.21* AbsEos-0.04 AbsBaso-0.03
___ 01:20AM BLOOD ___ PTT-37.2* ___
___ 01:20AM BLOOD Glucose-96 UreaN-11 Creat-0.7 Na-119* 
K-4.7 Cl-89* HCO3-16* AnGap-14
___ 01:20AM BLOOD ALT-16 AST-88* AlkPhos-334* TotBili-8.7*
___ 01:20AM BLOOD Albumin-2.0* Calcium-7.2* Phos-2.2* 
Mg-1.7
___ 06:30AM BLOOD calTIBC-161* VitB12-1310* Folate-12 
Ferritn-242 TRF-124*
___ 03:26PM BLOOD Triglyc-113 HDL-11* CHOL/HD-7.8 
LDLcalc-52
___ 03:26PM BLOOD TSH-3.4
___ 03:26PM BLOOD 25VitD-15*
___ 03:26PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 03:26PM BLOOD AMA-NEGATIVE Smooth-POSITIVE*
___ 02:57PM BLOOD ANCA-NEGATIVE B
___ 03:26PM BLOOD ___ AFP-1.6
___ 02:57PM BLOOD IgG-1706* IgA-1837* IgM-85
___ 02:57PM BLOOD C3-97 C4-20
___ 04:40AM BLOOD HIV Ab-NEG
___ 01:20AM BLOOD ASA-NEG Ethanol-44* Acetmnp-NEG 
Tricycl-NEG
___ 03:26PM BLOOD tTG-IgA-28*
___ 03:26PM BLOOD HCV Ab-NEG
___ 01:30AM BLOOD Lactate-1.7

MICRO
=====
blood cultures ___ - no growth to date
peritoneal fluid culture ___ - no growth to date

IMAGING/STUDIES
===============
___ RUQ US
1. Findings concerning for cavernous transformation of the main 
portal vein.  
Multiphasic CT of the liver is recommended for further 
evaluation.  Patent 
hepatic artery. 
2. Echogenic and nodular liver consistent with cirrhosis.  
Sequelae of portal 
hypertension including splenomegaly and moderate volume ascites. 

3. Gallbladder-wall thickening likely due to liver disease. 

___ ___ US
Lack of visualization of the left peroneal veins.  Otherwise, no 
evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

___ Triphasic CT
IMPRESSION:
1. Cirrhotic liver with sequelae of portal hypertension, 
including splenomegaly and varices.  No focal hepatic lesion.
2. Patent portal vasculature.  No evidence of cavernous 
transformation of the portal vein.
3. Distended stomach.  Diffuse dilatation of small bowel loops 
in the imaged abdomen, measuring up to 4 cm.  Mild dilatation of 
the transverse colon. The lower abdomen and pelvis are not 
included on this study.  Findings could represent ileus or 
obstruction.
4. Moderate intra-abdominal ascites.

___ KUB
Interval placement of NG tube projecting over proximal stomach.  

Redemonstration of diffusely dilated small and large bowel loops 
consistent with ileus.

___ TTE
IMPRESSION: Likely very small atrial septal defect/patent 
foramen ovale. Normal left
ventricular wall thickness and biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. High normal pulmonary 
artery systolic pressure.

DISCHARGE LABS
==============
___ 03:43AM BLOOD WBC-14.4* RBC-1.92* Hgb-7.0* Hct-21.5* 
MCV-112* MCH-36.5* MCHC-32.6 RDW-17.6* RDWSD-71.2* Plt ___
___ 03:43AM BLOOD ___ PTT-39.6* ___
___ 03:43AM BLOOD Glucose-144* UreaN-32* Creat-3.4* Na-132* 
K-4.4 Cl-92* HCO3-22 AnGap-18
___ 03:43AM BLOOD ALT-14 AST-51* AlkPhos-135* TotBili-15.9*
___ 03:43AM BLOOD Albumin-3.5 Calcium-8.7 Phos-6.3* Mg-2.___RIEF SUMMARY
==============
This is a ___ year old gentleman with a history of alcohol use 
history with recently diagnosed EtOH cirrhosis, COPD and 
enlarged prostate who presented to an OSH with abdominal pain 
and confusion. He was admitted to the ICU for asymptomatic 
hyponatremia, which improved with fluid restriction and albumin. 
He was called out of the ICU, but was quickly transferred back 
to the ICU due to new hematemesis requiring elective intubation 
and urgent upper endoscopy, which revealed duodenal ulcers, one 
of which was oozing and was treated with epinephrine injection. 
He was transferred out of the ICU, but again needed to be 
transferred back to the ICU on ___ due to hypoxemia 
requiring NRB and tachycardia to the 130s c/f aspiration 
pneumonia iso fever, started on broad spectrum antibiotics. He 
had also developed an ileus requiring NGT to suction and rapidly 
progressing renal failure concerning for HRS. On ___ a 
family meeting was held at bedside with wife ___, 
___, daughter, and step-son, primary and palliative care teams. 
We discussed how Mr. ___ multiple complications are all 
secondary to his cirrhosis and that this process is not 
reversible (not a transplant candidate given ongoing alcohol 
use). It was decided with the patient and his family that we 
would pursue hospice placement. His code status was changed to 
DNR/DNI, no escalation of care, no ICU readmission. The patient 
expressed that he wants to maximize the quality time he has to 
spend with family in hospice, and towards this goal, only 
uncomfortable meds and therapies (i.e. NGT, octreotide 
injections) were stopped.

CHRONIC/STABLE ISSUES  
======================  
#HYPONATREMIA
Patient was noted to have a newly depressed Na to 119 on 
presentation. Persistently in one-teens so admitted to MICU for 
close monitoring. He received 50 g of 25% albumin. His Na 
uptrended to 121 on ___, and improved on serial rechecks to 
123->124. He was called out to the ___ service, 
continued to improve until other issues as above.

#ACUTE ETOH INTOXICATION
#ETOH USE DISORDER
Serum EtOH level of 44 on admission. Per collateral from wife, 
pt continued EtOH use despite multiple recent hospitalizations. 
Monitored on CIWA score, SW consulted, however above acute 
issues took precedence.

#RASH
Presented with new petechial rash concerning for small vessel 
vasculitis. Workup was notable for: hepatitis serologies 
negative, tTG-IgA 28, ANCA negative, normal complement levels. 
Improved during hospitalization.

#LEUKOCYTOSIS
Presented with leukocytois with neutrophilic predominance, no 
specific localizing symptoms. Received one dose of Vanc/Zosyn at 
OSH. As noted elsewhere, intermittently on antibiotics for SBP 
prophylaxis or HAP coverage, stopped in accordance with GOC.

#DECOMPENSATED ETOH CIRRHOSIS
BRIEF SUMMARY
 
==============
 
This is a ___ year old gentleman with a history of alcohol use 
history with recently diagnosed EtOH cirrhosis, COPD and 
enlarged prostate who presented to an OSH with abdominal pain 
and confusion. He was admitted to the ICU for asymptomatic 
hyponatremia, which improved with fluid restriction and albumin. 
He was called out of the ICU, but was quickly transferred back 
to the ICU due to new hematemesis requiring elective intubation 
and urgent upper endoscopy, which revealed duodenal ulcers, one 
of which was oozing and was treated with epinephrine injection. 
He was transferred out of the ICU, but again needed to be 
transferred back to the ICU on ___ due to hypoxemia 
requiring NRB and tachycardia to the 130s c/f aspiration 
pneumonia iso fever, started on broad spectrum antibiotics. He 
had also developed an ileus requiring NGT to suction and rapidly 
progressing renal failure concerning for HRS. On ___ a 
family meeting was held at bedside with wife ___, 
___, daughter, and step-son, primary and palliative care teams. 
We discussed how Mr. ___ multiple complications are all 
secondary to his cirrhosis and that this process is not 
reversible (not a transplant candidate given ongoing alcohol 
use). It was decided with the patient and his family that we 
would pursue hospice placement. His code status was changed to 
DNR/DNI, no escalation of care, no ICU readmission. The patient 
expressed that he wants to maximize the quality time he has to 
spend with family in hospice, and towards this goal, only 
uncomfortable meds and therapies (i.e. NGT, octreotide 
injections) were stopped. Patient was started on a dilaudid gtt 
for comfort. He expired on ___ at 10:12 AM and family were 
notified by telephone. Wife declined autopsy. 
 

 
CHRONIC/STABLE ISSUES 
 
====================== 
 
#HYPONATREMIA
 
Patient was noted to have a newly depressed Na to 119 on 
presentation. Persistently in one-teens so admitted to MICU for 
close monitoring. He received 50 g of 25% albumin. His Na 
uptrended to 121 on ___, and improved on serial rechecks to 
123->124. He was called out to the ___ service and was 
subsequently transitioned to CMO per his request and no further 
lab monitoring was done.
 

 
#ACUTE ETOH INTOXICATION
 
#ETOH USE DISORDER
 
Serum EtOH level of 44 on admission. Per collateral from wife, 
pt continued EtOH use despite multiple recent hospitalizations. 
Monitored on CIWA score, SW consulted. He was subsequently 
transitioned to CMO per his request and no further lab or 
invasive monitoring was done.
 

 
#RASH
 
Presented with new petechial rash concerning for small vessel 
vasculitis. Workup was notable for: hepatitis serologies 
negative, tTG-IgA 28, ANCA negative, normal complement levels. 
Improved during hospitalization. He was subsequently 
transitioned to CMO per his request and no further lab 
monitoring was done.
 

 
#LEUKOCYTOSIS
 
Presented with leukocytois with neutrophilic predominance, no 
specific localizing symptoms. Received one dose of Vanc/Zosyn at 
OSH. As noted elsewhere, intermittently on antibiotics for SBP 
prophylaxis or HAP coverage, stopped in accordance with GOC as 
above.
 

 
#DECOMPENSATED ETOH CIRRHOSIS
 
Recently diagnosed with EtOH cirrhosis ___ at ___, 
repeat hospitalization ___ for sequela of liver disease and 
EtOH use. Unclear if this was biopsy-proven diagnosis but 
advanced stage on admission. Admission labs showing Child ___ 
class C and MELD-Na 29 with decompensated with HE, ascites, c/f 
HRS. As above, he was subsequently transitioned to CMO per his 
request and no further lab monitoring was done.
 

 
# HEPATIC ENCEPHALOPATHY
 
No hx. He was encephalopathic during this admission, which did 
not resolve with lactulose. RUQ with doppler to eval for portal 
vein thrombosis negative. Initially continued Lactulose 30mL TID 
and titrate to ___ BM daily. Given his change in GOC, this was 
changed to lactulose PRN encephalopathy, and rectal tube was 
continued for comfort
 

 
# GIB/VARICES: 
 
Patient noted to be tachycardic with hematemesis and an acute 
drop in Hgb. The patient was transferred to the MICU for 
emergent EGD given the concern for esophageal varix bleed. Upon 
arrival the patient was intubated, sedated and an EGD was 
performed which demonstrated 4 duodenal ulcers, one of which was 
injected with epinephrine to tampanode. The patient was 
monitored with serial Hgb prior to transfer back to the floor. 
Started on CTX 1g IV Q24H was started for infection prophylaxis 
following the bleed from his duodenal ulcer, then escalated to 
HAP coverage, then discontinued when made CMO.
 

 
# ASCITES: 
 
No history of paras. Diagnostic para on admission without SBP. 
Initially started on spironolactone 50mg PO daily and Lasix 20 
mg PO daily, which were subsequently held for hyponatremia. He 
received LVP for 3L on ___, and LVP for 3.3L on ___, 
and 50g of albumin 25% was given after each. As above, he was 
subsequently transitioned to CMO per his request and no further 
lab monitoring was done.
 

 
# RENAL/CONCERN FOR HRS 
 
Abrupt rise in Cr not responsive to albumin, c/f HRS. Trialed on 
midodrine/octreotide but see above regarding ___.
 

 
# CONTACT: 
 - Name of health care proxy: ___ 
 - Relationship: Wife
 - Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Acamprosate 666 mg PO TID 
2. Vitamin D ___ UNIT PO DAILY 
3. Lactulose 30 mL PO TID 
4. LORazepam 1 mg PO Q6H:PRN anxiety 
5. Nicotine Patch 21 mg/day TD DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Spironolactone 50 mg PO DAILY 
8. Thiamine 200 mg PO DAILY 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary diagnosis:
==================
Alcoholic cirrhosis decompensated by hepatic encephalopathy, 
ascites, and hepatorenal syndrome

Secondary diagnoses:
====================
COPD
Acute hypoxemic respiratory failure
Upper GI bleed caused by duodenal ulcer
Portal hypertensive gastropathy
Alcohol use disorder
Failure to thrive
Hyponatremia
Macrocytic anemia
Thrombocytopenia

 
Discharge Condition:
Expired.

 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___